US08614328B2
2-Quinolinecarbaldehyde (2.00 g, 12.7 mmol) was dissolved in 25 mL of methanol. To this solution was added sodium borohydride (0.24 g, 6.4 mmol) in small portions over a period of 20 minutes. Then 2 mL of water were added and the mixture was evaporated. The residue was dissolved in ethyl acetate (75 mL) and washed with water (3×75 mL) and evaporated. The residue was chromatographed in CH2Cl2-methanol gradient, eluting the product at 97:3 CH2Cl2-methanol, and providing 1.7 g of quinolin-2-yl-methanol in 85% yield; 1H NMR (CDCl3) δ 4.92 (s, 2H), 7.26 (d, J=2.1 Hz, 1H), 7.30-7.57 (m, 1H), 7.68-7.75 (m, 1H), 7.82 (dd, J=8.0 Hz, J=0.9 Hz, 1H), 8.07 (d, J=8.4 Hz, 1H), 8.13 (d, J=8.5 Hz, 1H).

reactant | 2-Quinolinecarbaldehyde | 12.7 mmol, 2.00 g | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | sodium borohydride | 6.4 mmol, 0.24 g | [BH4-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | methanol | 25 mL | CO | CH4O
product | quinolin-2-yl-methanol | 1.7 g, 85% yield | N1=C(C=CC2=CC=CC=C12)CO | C10H9NO
